US06642226B2
Rac-cis-2{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-N,N-dimethyl-acetamide
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone (200 mg, 0.41 mmol) was dissolved in N,N-dimethylforamide (5 mL). Potassium carbonate (171 mg, 1.24 mmol) and 2-chloro-N,N-dimethylacetamide (0.042 mL, 0.41 mmol) were added and the reaction mixture was stirred at room temperature overnight. Water (50 mL) was added and the mixture was extracted twice with 100 mL ethyl acetate. Organic phases were pooled, dried with magnesium sulfate and evaporated. Chromatography on silica gel with methylen chloride/methanol/triethyl amine 90:10:1 gave the desired product (200 mg, 85%) as an off-white solid, MS: m/e=571.1 (M+H+).

reactant | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-(3-phenyl-4-piperazin-1-yl-piperidin-1-yl)-methanone | 0.41 mmol, 200 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)N1CCNCC1)C1=CC=CC=C1)(F)F | C24H25F6N3O
reactant | Potassium carbonate | 1.24 mmol, 171 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-N,N-dimethylacetamide | 0.41 mmol, 0.042 mL | ClCC(=O)N(C)C | C4H8ClNO
reactant | Water | 50 mL | O | H2O
solvent | N,N-dimethylforamide | 5 mL | CN(C=O)C | C3H7NO
product | Rac-cis-2{4-[1-(3,5-Bis-trifluoromethyl-benzoyl)-3-phenyl-piperidin-4-yl]-piperazin-1-yl}-N,N-dimethyl-acetamide | 200 mg, 85% | FC(C=1C=C(C(=O)N2C[C@H]([C@H](CC2)N2CCN(CC2)CC(=O)N(C)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C28H32F6N4O2
